### PR TITLE
Add Erdős Problem 716 (the Ruzsa–Szemerédi (6,3)-problem), link the formal proof

### LINKED ISSUE #6144: Erdős Problem 716
### What is the Erdős problem?

https://www.erdosproblems.com/716

Let $\mathcal{F}$ be the family of all $3$-uniform hypergraphs with $6$ vertices and $3$ $3$-edges. Is it true that $\mathrm{ex}_3(n,\mathcal{F})=o(n^2)$?

Status: proved (Lean). The Ruzsa–Szemerédi (6,3)-theorem; a formal proof by Aristotle and JoshuaB (using Mathlib's triangle removal lemma) is available via plby/lean-proofs `Erdos716.erdos_716`.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6144.

### What changed
Adds `FormalConjectures/ErdosProblems/716.lean` with `ex3 n` (maximum number of edges of a `3`-uniform `Hypergraph (Fin n)` in which no three distinct edges span at most six vertices, i.e. containing no member of the family of `3`-uniform hypergraphs with `6` vertices and `3` edges) and `erdos_716` (`research solved`, `answer(True)`): `ex3 n = o(n²)`, the Ruzsa–Szemerédi (6,3)-theorem. Linked to plby/lean-proofs `Erdos716.erdos_716` (Aristotle and JoshuaB, built on Mathlib's triangle removal lemma).

### How checked
- Rebuilt plby's closure (3 files, Mathlib-only) against this repo's Mathlib: `#print axioms Erdos716.erdos_716` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms. plby's `ex3` is a `Finset.sup` over `Finset (Finset (Fin n))`; the bridge shows our `ex3 n ≤` plby's by turning a hypergraph's edge set into such a finset, so the `o(n²)` bound transfers:

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics

namespace Bridge716

/-- The extremal number of this repository is at most plby's. -/
lemma ex3_le (n : ℕ) : Erdos716.ex3 n ≤ Erdos716Plby.ex3 n := by
  classical
  apply csSup_le'
  rintro m ⟨H, -, h3, h6, rfl⟩
  -- the edge set as a finset of finsets
  have hfin : H.edgeSet.Finite := Set.toFinite _
  let F : Finset (Finset (Fin n)) := hfin.toFinset.image fun e => e.toFinset
  have hinj : Set.InjOn (fun e : Set (Fin n) => e.toFinset) hfin.toFinset := by
    intro e _ f _ h
    have := congrArg (fun s : Finset (Fin n) => (s : Set (Fin n))) h
    simpa using this
  have hcard : F.card = H.edgeSet.ncard := by
    rw [Finset.card_image_of_injOn hinj, Set.ncard_eq_toFinset_card _ hfin]
  have hmem : ∀ e, e ∈ F ↔ ∃ e' ∈ H.edgeSet, e'.toFinset = e := by
    intro e
    simp [F]
  rw [← hcard, Erdos716Plby.ex3]
  apply Finset.le_sup (f := Finset.card)
  rw [Finset.mem_filter]
  refine ⟨Finset.mem_univ _, ?_, ?_⟩
  · intro e he
    obtain ⟨e', he', rfl⟩ := (hmem e).1 he
    rw [← h3 e' he', Set.ncard_eq_toFinset_card']
  · rintro ⟨e₁, he₁, e₂, he₂, e₃, he₃, h12, h13, h23, hle⟩
    obtain ⟨f₁, hf₁, rfl⟩ := (hmem e₁).1 he₁
    obtain ⟨f₂, hf₂, rfl⟩ := (hmem e₂).1 he₂
    obtain ⟨f₃, hf₃, rfl⟩ := (hmem e₃).1 he₃
    refine h6 ⟨f₁, hf₁, f₂, hf₂, f₃, hf₃, ?_, ?_, ?_, ?_⟩
    · intro h; exact h12 (by rw [h])
    · intro h; exact h13 (by rw [h])
    · intro h; exact h23 (by rw [h])
    · have : (f₁ ∪ f₂ ∪ f₃).toFinset = f₁.toFinset ∪ f₂.toFinset ∪ f₃.toFinset := by
        simp
      rw [Set.ncard_eq_toFinset_card', this]
      exact hle

theorem erdos_716_bridge : type_of% Erdos716.erdos_716 := by
  show True ↔ _
  simp only [true_iff]
  refine IsBigO.trans_isLittleO ?_ Erdos716Plby.erdos_716
  refine IsBigO.of_bound 1 (Eventually.of_forall fun n => ?_)
  simp only [Real.norm_natCast, one_mul]
  exact_mod_cast ex3_le n

end Bridge716
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«716»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/716.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+/-- The extremal number $\mathrm{ex}_3(n,\mathcal{F})$, where $\mathcal{F}$ is the family of all
+$3$-uniform hypergraphs with $6$ vertices and $3$ edges: the maximum number of edges of a
+$3$-uniform hypergraph on $n$ vertices in which no three distinct edges span at most six
+vertices. -/
+noncomputable def ex3 (n : ℕ) : ℕ :=
+  sSup {m : ℕ | ∃ H : Hypergraph (Fin n), H.vertexSet = Set.univ ∧
+    (∀ e ∈ H.edgeSet, e.ncard = 3) ∧
+    (¬ ∃ e₁ ∈ H.edgeSet, ∃ e₂ ∈ H.edgeSet, ∃ e₃ ∈ H.edgeSet,
+      e₁ ≠ e₂ ∧ e₁ ≠ e₃ ∧ e₂ ≠ e₃ ∧ (e₁ ∪ e₂ ∪ e₃).ncard ≤ 6) ∧
+    H.edgeSet.ncard = m}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/716.lean:56]: repeats 1020.lean's hypergraph extremal-number pattern; a generic `Hypergraph.extremalNumber` in `Combinatorics/Hypergraph/`
Let's re-use this instead

File: FormalConjectures/ErdosProblems/716.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/716.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
